US06583140B2
N-[5-((1R)-2-Azido-1-hydroxy-ethyl)-2-benzyloxy-phenyl]-methanesulfonamide:
To a stirred solution of N-[2-benzyloxy-5-(2-bromo-1-hydroxy-ethyl)-phenyl]-methanesulfonamide (Washburn, W. N., et al., EP 0 659 737) (15.05 g, 38 mmol) in dimethyl sulfoxide (150 ml) was added sodium iodide (3.76 g, 376 mmol) and sodium azide (9.48 g, 150 mmol). The mixture was stirred for 5 days under nitrogen atmosphere. The reaction mixture was poured onto water and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated. The residue was triturated with water and hexanes to give the title compound as a yellow solid (12.85 g, 94%): 1H NMR (300 MHz, CDCl3) δ 2.93(s, 3 H), 3.47(d, J=5.4 Hz, 2 H), 4.84(t, J=5.4 Hz, 1 H), 5.11(s, 2 H), 6.80(s, 1 H), 6.99(d, J=8.4 Hz, 1 H), 7.15(dd, J=8.4 Hz, 2.1 Hz, 1 H), 7.26(s, 1 H), 7.30-7.50(m, 5H), 7.53(d, J=2.1 Hz, 1 H); MS (ES) m/z 361.4 ((M−H)−, 70%).

reactant | N-[2-benzyloxy-5-(2-bromo-1-hydroxy-ethyl)-phenyl]-methanesulfonamide | 38 mmol, 15.05 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CBr)O)NS(=O)(=O)C | C16H18BrNO4S
reactant | sodium iodide | 376 mmol, 3.76 g | [I-].[Na+]
reactant | sodium azide | 150 mmol, 9.48 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | N-[5-((1R)-2-Azido-1-hydroxy-ethyl)-2-benzyloxy-phenyl]-methanesulfonamide | 12.85 g, 94% | N(=[N+]=[N-])C[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1 | C16H18N4O4S
